US05324839
STEP A: 2-(1-hexynyl) benzeneamine
32 mg of copper iodide, 140 mg of bistriphenyl phosphine palladium chloride and then 2.3 ml of 1-hexyne were added to a solution of 4.4 g of 2-iodo aniline in 100 ml of triethylamine. The mixture was stirred for 15 hours at ambient temperature, followed by evaporating to dryness and taking up in ether. The insoluble part was filtered off, washed with ether and the ethereal fractions were evaporated to dryness. The residue was chromatographed on silica (eluant: hexane - ethyl acetate (9-1)) to obtain 3.27 g of the desired product.

reactant | 1-hexyne | 2.3 ml | C#CCCCC | C6H10
reactant | 2-iodo aniline | 4.4 g | IC1=C(N)C=CC=C1 | C6H6IN
solvent | triethylamine | 100 ml | C(C)N(CC)CC | C6H15N
catalyst | copper iodide | 32 mg | [Cu](I)I
product | 2-(1-hexynyl) benzeneamine | 3.27 g | C(#CCCCC)C1=C(C=CC=C1)N | C12H15N
